* current controlled sources with extraneous identifiers
* Xyce netlist for corresponding HSPICE netlist
* This netlist test XDM will strip out the extra
* identifiers in the current controlled sources
* (CCCS and CCVS) that can appear in HSPICE.

IA IN 0 0
VA IN 0 0
F1 1 0 VA 0.1
R1 1 2 10
R2 2 0 10
F2 3 0 VA 0.2
R3 3 4 10
R4 4 0 10
H1 5 0 VA -0.1
R5 5 6 10
R6 6 0 10
H2 7 0 VA -0.2
R7 7 8 10
R8 8 0 10


.DC IA 0 10 1
.PRINT DC FORMAT=PROBE V(2) V(4) V(6) V(8)
